US07645789B2
4-(5-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-tert-butylindolin-1-yl)butanoic acid (130 mg, 0.28 mmol) was taken up in a mixture of acetonitrile-H2O-TFA. The solvent was removed under reduced pressure and the residue obtained was dissolved in CDCl3. After a brief exposition to daylight (5-10 min), the solution turned purple. The mixture was stirred open to the atmosphere at room temperature until complete disappearance of the starting material (8 h). Solvent was removed under reduced pressure and the residue was purified by reverse phase HPLC to give 4-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-tert-butyl-1H-indol-1-yl)butanoic acid. 1H NMR (400 MHz, CDCl3) δ 7.52 (d, J=1.9 Hz, 1H), 7.18 (d, J=2.1 Hz, 1H), 7.16 (s, 1H), 7.03 (dd, J=9.4, 1.9 Hz, 1H), 7.00-6.98 (m, 2H), 6.85 (d, J=7.9 Hz, 1H), 6.16 (s, 1H), 6.02 (s, 2H), 4.29-4.24 (m, 2H), 2.48 (dd, J=6.9, 6.9 Hz, 2H), 2.12-2.04 (m, 2H), 1.69 (dd, J=6.8, 3.7 Hz, 2H), 1.43 (s, 9H), 1.09 (dd, J=6.8, 3.7 Hz, 2H). MS (ESI) m/e (M+H+) 463.0.

reactant | 4-(5-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-tert-butylindolin-1-yl)butanoic acid | 0.28 mmol, 130 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1CC(N(C1=CC2)CCCC(=O)O)C(C)(C)C | C27H32N2O5
solvent | acetonitrile H2O-TFA | C(C)#N.O.FC(F)(F)C(=O)O
product | 4-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-tert-butyl-1H-indol-1-yl)butanoic acid | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(N(C1=CC2)CCCC(=O)O)C(C)(C)C | C27H30N2O5
